* /Users/ieb/timefields/nmea2000/signalk-sailsensors/spice_models/AirmarWaterPulseIsolator.asc
XU1 N002 N003 N001 Out PC817 Igain=1m
R1 N003 0 2.2K
R3 Out 0 10K
V1 N002 0 PULSE(0 8 0.001 0.0001 0.0001 0.001 0.002 100)
V2 N001 0 3.3
.tran 10m startup
.lib PC817.sub
.backanno
.end
