* /Users/ieb/timefields/nmea2000/signalk-sailsensors/spice_models/RayWindPulseIsolator.asc
R1 N002 N003 1K
R3 Out 0 10K
V1 In 0 PULSE(3.3 0 0.01 0.0005 0.0005 0.002 0.05 100)
V2 N001 0 3.3
V3 N002 0 3.3
XU2 N003 In N001 Out NC_01 4N25
.tran 100m startup
.lib 4N25.sub
.backanno
.end
